US04055561
Following essentially the same procedure described in Example IV above and substituting α-methyl-ρ-phenoxybenzylamine hydrochloride for the α-methyl-ρ-phenethylbenzylamine hydrochloride above, results in the formation of 2-(α-methyl-ρ-phenoxybenzylimino)hexahydroazepine hydrochloride having a M.P. of 210°-2° C., (dec.)

reactant | α-methyl-ρ-phenoxybenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)OC1=CC=CC=C1)N
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-(α-methyl-ρ-phenoxybenzylimino)hexahydroazepine hydrochloride | Cl.CC(C1=CC=C(C=C1)OC1=CC=CC=C1)N=C1NCCCCC1 | InChI=1S/C20H24N2O.ClH/c1-16(22-20-10-6-3-7-15-21-20)17-11-13-19(14-12-17)23-18-8-4-2-5-9-18;/h2,4-5,8-9,11-14,16H,3,6-7,10,15H2,1H3,(H,21,22);1H
